US08022206B2
Intermediate 6: Furo[3,2-c]pyridin-7-ol
A mixture of 7-bromofuro[3,2-c]pyridine (9.15 g, 46.2 mmol), potassium hydroxide (7.78 g, 139 mmol), Pd2(dba)3 (0.02 eq) and 2-di-tert-butylphosphino-3,4,5,6-tetramethyl-2′,4′,6′-triisopropyl-1,1′-biphenyl (0.08 eq) in H2O (22.5 mL) and 1,4-dioxane (22.5 mL) was vigorously stirred at 100° C. overnight. LC-MS showed completion of the reaction. The reaction mixture was washed with DCM (3×30 mL). The aqueous layer was neutralized and concentrated by freeze dryer. The resulting solid was washed with massive amount of acetone to give the title compound as a white solid (6.2 g, 81% yield). 1H NMR (DMSO-d6, 400 MHz): δ=7.05 (d, J=2.0 Hz, 1H), 8.04 (s, 1H), 8.06 (d, J=2.2 Hz, 1H), 8.44 (s, 1H). MS (ES+): m/z=136.15 [MH+].

reactant | 7-bromofuro[3,2-c]pyridine | 46.2 mmol, 9.15 g | BrC=1C2=C(C=NC1)C=CO2 | C7H4BrNO
reactant | potassium hydroxide | 139 mmol, 7.78 g | [OH-].[K+]
reactant | 2-di-tert-butylphosphino-3,4,5,6-tetramethyl-2′,4′,6′-triisopropyl-1,1′-biphenyl | 0.08 eq | C(C)(C)(C)P(C1=C(C(=C(C(=C1C)C)C)C)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C33H53P
solvent | H2O | 22.5 mL | O | H2O
solvent | 1,4-dioxane | 22.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.02 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Furo[3,2-c]pyridin-7-ol | 6.2 g, 81% yield | O1C=CC=2C=NC=C(C21)O | C7H5NO2
